US03947416
Preparation of Pyrazino [2,3-d]Pyrimidine- 2,4(1H,3H)-Dione
A 50 ml. flask was charged with 0.90 g. pyrazine-2,3-dicarboxamide dissolved in 16 ml. dimethylformamide. A 2.4 g. portion of lead tetra-acetate was added to the solution and the reaction mixture was stirred at 40° for 15 minutes. The reaction mixture was cooled, 30 g. of ice was added and after 1 hour the mixture was filtered. Crystallization of the residue from water gave, after drying in vacuo, a yield of 0.64 g. of pyrazino[2,3-d]pyrimidine-2,4(1H,3H)-dione, melting point 364°-365°, which represented 71 percent of theory. The structure was confirmed by infra-red spectroscopy.

reactant | pyrazine-2,3-dicarboxamide | N1=C(C(=NC=C1)C(=O)N)C(=O)N | C6H6N4O2
reactant | lead tetra-acetate | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
reactant | dimethylformamide | CN(C=O)C | C3H7NO
product | Pyrazino [2,3-d]Pyrimidine- 2,4(1H,3H)-Dione | N1C(NC(C2=C1N=CC=N2)=O)=O | C6H4N4O2
